US05447830
Synthesis of (3-Pentadecylphenoxy)acetic Acid
A 2-L round bottom flask equipped with a magnetic stirring bar and a reflux condenser was charged with potassium hydroxide (28 g, 0.5 mol) and methanol (1-L). To this vigorously stirred mixture, methyl (3-pentadecylphenoxy)acetate (93 g, 0.247 mol) was added and the resulting slurry was brought to a gentle reflux (2 hr). The ester was not completely soluble. The reaction was monitored by TLC. The hydrolysis was complete in 2 hr. The mixture was cooled and poured into crushed ice-water-hydrochloric acid mixture to precipitate the acid as white solid. The acid was dried and further purified by trituration from hot methanol to afford 82 g (92% yield) of the acid, mp 96° C.

reactant | potassium hydroxide | 0.5 mol, 28 g | [OH-].[K+]
reactant | methyl (3-pentadecylphenoxy)acetate | 0.247 mol, 93 g | C(CCCCCCCCCCCCCC)C=1C=C(OCC(=O)OC)C=CC1 | C24H40O3
solvent | methanol | CO | CH4O
product | (3-Pentadecylphenoxy)acetic Acid | 82 g, 92% yield | C(CCCCCCCCCCCCCC)C=1C=C(OCC(=O)O)C=CC1 | C23H38O3
